2163-04-07 08:01:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
 MULTI LUMEN - START [**2163-4-6**] 04:30 PM
 FEVER - 101.3
F - [**2163-4-6**] 08:00 PM
   Off dopamine since arrival in ICU basically
   No more IVF
   CVP>10
   2500/1000 I/O since arrival in ED until 0800 today
   History obtained from Patient
   Allergies:
   History obtained from PatientZithromax (Oral) (Azithromycin)
   Wheezing; Hives
   Heparin Agents
   POSITIVE Hepar
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2163-4-6**] 09:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-4-7**] 01:41 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-4-7**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.7
C (98
   HR: 104 (75 - 104) bpm
   BP: 136/57(76) {93/36(51) - 136/82(86)} mmHg
   RR: 25 (24 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 11 (10 - 20)mmHg
   Total In:
                                                                    327 mL
                                                                    179 mL
   PO:
   TF:
   IVF:
                                                                    327 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                    410 mL
                                                                    560 mL
   Urine:
                                                                    410 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -83 mL
                                                                   -381 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   85 K/uL
   11.7 g/dL
   233 mg/dL
   1.6 mg/dL
   19 mEq/L
   3.3 mEq/L
   34 mg/dL
   111 mEq/L
   144 mEq/L
   35.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2163-4-7**]  03:59 AM
   WBC
   11.6
   Hct
   35.5
   Plt
   85
   Cr
   1.6
   Glucose
   233
   Other labs: PT / PTT / INR:16.0/27.1/1.4, Lactic Acid:4.0 mmol/L,
   Ca++:7.8 mg/dL, Mg++:1.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 SHOCK, ANAPHYLACTIC (ANAPHYLAXIS)
   82 M with CLL, hypogammaglobulinemia, h/o mastocytosis "anaphylactoid"
   reactions presents with sore thorat, subjective fever and hypotension
   .
   #. Hypotension- DDX includes sepsis given immunodeficiency, capillary
   leak syndrome given history of "anaphylactoid rxn's" requring ICU
   admission in the past, volume depletion, ACS, tamponade viral process
   triggering immune reaction.
   - IVF MAP<60, CVP<8
   - wean off dopamine gtt, at 2.5 mcg/kg currently
   - place arterial line if still hypotensive
   - solumedrol 60mg IV q8h
   - Benadryl 25mg IV q4h
   - ranitidine PO q12h
   - empiric broad spectrum abx with vanco/zosyn/levo if cx negative after
   48 hours and hypotension resolves quickly which would be consistent
   with immune reaction
   - neck CT given sore throat to r/o abscess if febrile
   - immunoglobulin panel
   - due for IVIG tomorrow, will discuss with oncology
   .
   #. Acute renal failure- suspect pre-renal physiology
   - IVF volume repletion
   - trend Cr
   - hold lasix
   .
   #. Anion gap acidosis- lactate elevated likely [**1-24**] hypotension
   - trend lactate
   - volume repletion
   .
   # Diastolic heart failure- will hold lasix and toprol for now given
   hypotension
   - monitor exam closely, received 2 L IVF
   - continue ASA
   .
   #. Diabetes mellitus- hold oral agents
   - low dose NPH and SSI
   .
   #. HTN- hold norvasc, toprol xl and lasix
   .
   #. Asthma- continue nebulizers, PFT normal in the past
   .
   #. Dyslipidemia- continue statin
   .
   #. FEN - Regular diet
   .
   #. Access - PIV
   .
   #. PPx -
   -DVT ppx with pneumoboots
   - H2blocker
   .
   #. Code - full code
   .
   #. Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2163-4-6**] 04:30 PM
   18 Gauge - [**2163-4-6**] 05:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2163-04-07 11:11:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: anaphylactoid reaction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2163-4-6**] 04:30 PM
 FEVER - 101.3
F - [**2163-4-6**] 08:00 PM
   - off dopamine
   -[**Month (only) 38**] FiO2 requirement
   -significant DOE
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Zithromax (Oral) (Azithromycin)
   Wheezing; Hives
   Heparin Agents
   POSITIVE Hepar
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-4-7**] 01:41 AM
   Vancomycin - [**2163-4-7**] 08:11 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Tachycardia
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2163-4-7**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 35.6
C (96.1
   HR: 97 (75 - 104) bpm
   BP: 138/64(82) {93/36(51) - 138/82(86)} mmHg
   RR: 25 (23 - 33) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 11 (10 - 20)mmHg
   Total In:
                                                                    327 mL
                                                                    424 mL
   PO:
   TF:
   IVF:
                                                                    327 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                    410 mL
                                                                    735 mL
   Urine:
                                                                    410 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -83 mL
                                                                   -312 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   85 K/uL
   233 mg/dL
   1.6 mg/dL
   19 mEq/L
   3.3 mEq/L
   34 mg/dL
   111 mEq/L
   144 mEq/L
   35.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2163-4-7**]  03:59 AM
   WBC
   11.6
   Hct
   35.5
   Plt
   85
   Cr
   1.6
   Glucose
   233
   Other labs: PT / PTT / INR:16.0/27.1/1.4, Lactic Acid:4.0 mmol/L,
   Ca++:7.8 mg/dL, Mg++:1.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   81M h/o mastocytosis-like syndrome with associated anaphylactoid
   reactions presented to ED after experienced his usual prodrome of
   symptions.  In ED BP 72/49.  Was not tachycardic (but on b-blocker).
   Two liters IVF boluses without significant improvement.  IV benadryl,
   IV levoflox, IV solumedrol 125mg.  CVL place and dopamine started at
   10mcg with improvement of hemodynamic status.  Transferred to ICU for
   close hemodynamic monitoring and management.  Improved hemodyn
   overnight -- off pressors since yesterday
   Anaphylactoid reaction
   -cont treatment per allergy recs
   Bandemia with hypotension
   - wbc high normal, elevated bands - noted to have bandemia during prior
   episodes on chart review
   - infection vs. anaphylactoid symptomatology
   - IVF resuscitation
   - pressors off
   - cx data unrevealing
   - empiric broad spectrum coverage given hypogammaglobulinemia.  if cx
   remain neg and cont to improve consider pulling  back abx tomorrow.
   Sore throat
   -throat swab sent
   DMII
   - cont meds, SSRI
   HTN
   -holding norvasc, lasix, toprol xl
   Dyslipidemia
   -cont statin
   Remainder of plan as outlined above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2163-4-6**] 04:30 PM
   18 Gauge - [**2163-4-6**] 05:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2163-04-08 08:00:00 Physician Resident Progress Note
Chief Complaint: Resolved hypotension
   24 Hour Events:
   [**4-7**]
   Got IVIG
   Stool cultures positive for C.diff, flagyl started
   Changed to oral prednisone for the morning
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsZithromax (Oral)
   (Azithromycin)
   Wheezing; Hives
   Heparin Agents
   POSITIVE Hepar
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2163-4-7**] 08:11 AM
   Piperacillin/Tazobactam (Zosyn) - [**2163-4-8**] 04:15 AM
   Metronidazole - [**2163-4-8**] 04:15 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2163-4-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-4-8**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 74 (72 - 97) bpm
   BP: 113/57(71) {100/55(69) - 150/79(86)} mmHg
   RR: 23 (18 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (5 - 20)mmHg
   Total In:
                                                                  1,565 mL
                                                                    703 mL
   PO:
                                                                    360 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    742 mL
                                                                    126 mL
   Blood products:
                                                                    463 mL
                                                                    337 mL
   Total out:
                                                                  1,185 mL
                                                                    235 mL
   Urine:
                                                                  1,185 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    380 mL
                                                                    468 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   82 K/uL
   10.7 g/dL
   209 mg/dL
   1.5 mg/dL
   22 mEq/L
   3.7 mEq/L
   44 mg/dL
   116 mEq/L
   145 mEq/L
   32.1 %
   15.6 K/uL
        [image002.jpg]
                             [**2163-4-7**]  03:59 AM
                             [**2163-4-7**]  04:52 PM
                             [**2163-4-8**]  03:29 AM
   WBC
   11.6
   15.6
   Hct
   35.5
   32.1
   Plt
   85
   82
   Cr
   1.6
   1.5
   1.5
   Glucose
   233
   327
   209
   Other labs: PT / PTT / INR:14.1/29.9/1.2, Differential-Neuts:87.0 %,
   Band:0.0 %, Lymph:7.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.7 mg/dL, PO4:1.4 mg/dL
   Fluid analysis / Other labs: no bands today
   Imaging: cxr [**4-7**]- atelectasis, no pna
   Microbiology: cdiff + [**4-6**]- tx started [**4-7**]
   Assessment and Plan
 SHOCK, ANAPHYLACTIC (ANAPHYLAXIS)
   82 M with CLL, hypogammaglobulinemia, h/o mastocytosis "anaphylactoid"
   reactions presents with sore thorat, subjective fever and hypotension
   found to have clostridium difficile on stool sent [**4-6**]
   .
   #. Hypotension- Resolved.  Most likely mastocytosis and anaphylaxis
   given presentation.   On broad spectrum antibiotics initially found to
   have clostridium difficile which was likely trigger in this setting. He
   likely acquired this infection from health care contacts during IVIG
   infusions he receives every 3 weeks.
   - switch to mastocytosis regimen per notes
   - Switch to PO prednisone 60mg daily -> clarify regimen with dr. [**Last Name (STitle) **]
   - Switch to PO Benadryl 25mg q4h
   - PO ranitidine 150mg q12
   - stop vanco/zosyn/levo given source of likely trigger found
   - received IVIG yesterday
   - d/c foley
   - d/c central line
   .
   # Clostridium difficile infection- He likely acquired this infection
   from health care contacts during IVIG infusions he receives every 3
   weeks.
   - began treatment [**4-7**], he should continue for 14 day course to
   conclude on [**4-20**]
   .
   #. Acute renal failure- suspect pre-renal physiology, Cr 1.5, (1.6) b/l
   1.2
   - trend Cr
   - hold lasix, add back tomorrow if stable
   .
   #. Anion gap acidosis- lactate elevated likely [**1-24**] hypotension
   - lactate normal, cont to trend
   .
   # Diastolic heart failure
   - monitor exam closely, received 2 L IVF, add back lasix tomorrow, add
   back metoprolol today
   - continue ASA
   .
   #. Diabetes mellitus- hold oral agents
   - low dose NPH and SSI, switch back to oral regimen today, continue SSI
   while on steroids
   .
   #. HTN- hold norvasc and lasix, add back metoprolol today
   .
   #. Asthma- continue nebulizers, PFT normal in the past
   .
   #. Dyslipidemia- continue statin
   ICU Care
   Nutrition:
   Comments: diabetic, cardiac diet
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2163-4-6**] 04:30 PM
   18 Gauge - [**2163-4-6**] 05:20 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his
   note above, including assessment and plan.
   81M h/o recurrent anaphylactoid reactions presented to ED after
   experienced his usual prodrome of symptoms.  Hypotensive to SBP 70s in
   ED, non-responsive to IVF resuscitation so CVL placed and started on
   dopamine.   Transferred to MICU for close hemodynamic monitoring.
   Remains hemodynamically stable.  Received IVIG.   His C. Dif toxin
   assay has returned positive.
   Exam:
    Pt reclining in bed in NAD, asking when he can go home.  Feels much
   improved.  Heart S1S2, no m/r/g, lungs CTA, abd soft ntnb BS+, AAOx3
   Anaphylactoid reaction
   -cont treatment per allergy recs
   -taper steroids
   Bandemia with hypotension
   - C. Dif +
   -Afeb, wbc up (but in context of receiving steroids)
   - Flagyl started infection
   -hemodynamics stabilized
   Sore throat
   -throat swab sent
   DMII
   - cont meds, SSRI
   HTN
   -add back home regimen in stepwise fashion
   Dyslipidemia
   -cont statin
   Remainder of plan as outlined in resident note above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2163-4-8**] 15:26 ------